US09334263B2
The above solution was added to a solution of tert-butyl 4-(5-benzoylpyrimidin-2-yl)piperazine-1-carboxylate (1 g, 2.7 mmol) in dry THF (20 mL) at 0° C., and the reaction solution was stirred at room temperature for 2 h. The reaction was quenched by water (20 mL) and extracted with ethyl acetate (200 mL). The organic layer was separated, dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography eluting with petroleum ether:ethyl acetate 10:1 to give tert-butyl 4-(5-(1-phenylvinyl)pyrimidin-2-yl)piperazine-1-carboxylate (890 mg, 89%) as a white solid. MS (ES+) C21H26N4O2 requires: 366, found: 367 [M+H]+.

reactant | tert-butyl 4-(5-benzoylpyrimidin-2-yl)piperazine-1-carboxylate | 2.7 mmol, 1 g | C(C1=CC=CC=C1)(=O)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C20H24N4O3
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(5-(1-phenylvinyl)pyrimidin-2-yl)piperazine-1-carboxylate | 890 mg, 89% | C1(=CC=CC=C1)C(=C)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C21H26N4O2
